US04734429
A mixture of 27.6 g of 4,6,7,8-tetrahydro-1-methyl-5(1H)-cycloheptapyrazolone and 100 ml of N,N-dimethylformamide dimethyl acetal was heated at reflux for 1.5 hours. The solvent was then removed under reduced pressure and the residue was flash chromatographed (10% methanol in dichloromethane) to give 4-(dimethylaminomethylene)-4,6,7,8-tetrahydro-1-methyl-5(1H)-cycloheptapyrazolone.

reactant | 4,6,7,8-tetrahydro-1-methyl-5(1H)-cycloheptapyrazolone | 27.6 g | CN1N=CC2=C1CCCC(C2)=O | C9H12N2O
reactant | N,N-dimethylformamide dimethyl acetal | 100 ml | COC(N(C)C)OC | C5H13NO2
product | 4-(dimethylaminomethylene)-4,6,7,8-tetrahydro-1-methyl-5(1H)-cycloheptapyrazolone | CN(C)C=C1C(CCCC2=C1C=NN2C)=O | C12H17N3O
